US07851465B2
7-Chloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione (0.65 g, 1.43 mmol) was suspended in anhydrous toluene (10 mL) under a nitrogen atmosphere. N,N-Dimethylaniline (0.36 mL, 2.9 mmol) was added followed by phosphorus oxychloride (0.20 mL, 2.1 mmol) and the mixture was heated at 90° C. for 4 hours. After cooling to ambient temperature, the mixture was diluted with 40 mL of ethyl acetate:hexanes (1:2), washed with ice water (10 mL), ice cold 1 M hydrogen chloride (2×10 mL), and brine, then dried with sodium sulfate, decanted and concentrated in vacuo. The residue was redissolved in a small amount of ethyl acetate, then poured onto a silica plug. The product was eluted with 100 mL of ethyl acetate:hexanes (1:2) to yield (E)-5,7-dichloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one (680 mg, 100%) which was used without further purification.

reactant | 7-Chloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | 1.43 mmol, 0.65 g | ClC1=CC2=C(N(C(C(NC2=O)CC2=C(C=CC=C2)Cl)=O)CC2=CC=C(C=C2)OC)C=C1 | C24H20Cl2N2O3
reactant | N,N-Dimethylaniline | 2.9 mmol, 0.36 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus oxychloride | 2.1 mmol, 0.20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-5,7-dichloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 680 mg, 100% | Cl/C=1/C2=C(N(C(C(\N1)CC1=C(C=CC=C1)Cl)=O)CC1=CC=C(C=C1)OC)C=CC(=C2)Cl | C24H19Cl3N2O2
